* Z:\mnt\design.r\spice\examples\1574.asc
V1 IN 0 9
R1 N002 0 31.5K
R2 OUT N002 93.5K
L1 N001 OUT 100µ Rser=0.02 Rpar=5000
C1 OUT 0 100µ Rser=0.02
XU1 N002 MP_01 MP_02 0 N001 IN IN IN LTC1574 top=1K bot=1T
Rload OUT 0 15
.tran 3m startup
.lib LTC1574.sub
.backanno
.end
